US05863946
A solution in THF of O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl]hydroxylamine (0.50 g, 1.71 mmol), prepared as in step 3, and glyoxylic acid (0.18 g, 1.99 mmol) in THF was stirred for 16 hours. The solution was then diluted with aqueous citric acid and extracted with ethyl acetate (100 mL). The extract was washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to yield an off white solid which was purified by chromatography on silica gel (10% methanol-chloroform). The resulting residue was crystallized from EtOAc/hexanes to provide glyoxylic acid-O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl] oxime (0.21 g, 33%) as a white solid. mp 185°-187° C. 1H NMR (300 MHz, DMSO-d6) δ2.38 (s, 3 H), 5.17 (s, 2 H), 6.19 (d, J=7.5 Hz, 1 H), 6.82 (t, J=7.5 Hz, 1 H), 6.97 (s, 1 H), 7.09 (t, J=7.5 Hz, 1 H), 7.25 (m, 2 H), 7.44 (m, 2 H). MS (DCI/NH3) m/z 353 (M+H)+. Anal. Calcd for C16H14N2O3Cl2 ×1.0 H2O: C, 51.76; H, 4.34; N, 7.54. Found: C, 51.78; H, 3.69; N, 7.15.

reactant | O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl]hydroxylamine | 1.71 mmol, 0.50 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)CON | C14H14Cl2N2O
reactant | glyoxylic acid | 1.99 mmol, 0.18 g | C(C=O)(=O)O | C2H2O3
solvent | THF | C1CCOC1 | C4H8O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | glyoxylic acid-O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl] oxime | 0.21 g, 33% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)CON=CC(=O)O | C16H14Cl2N2O3
